US05109012
4-Bromomethyl-2-(2,6-dichloro-4-trifluoromethylphenyl)-2H-1,2,3-triazole, prepared as in EP No. 350 237, was treated with potassium cyanide in dimethyl sulphoxide at room temperature for two hours. The mixture was added to water and extracted with diethyl ether. The extract was worked up to give crude 2-(2,6-dichloro-4-trifluoromethylphenyl)-2H-1,2,3-triazol-4-ylacetonitrile. In a similar manner to Example 6, this compound was converted to 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-[(1H-imidazol-2-yl)methyl]-2H-1,2,3-triazole,. (Compound 29a).

reactant | 4-Bromomethyl-2-(2,6-dichloro-4-trifluoromethylphenyl)-2H-1,2,3-triazole | BrCC1=NN(N=C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C10H5BrCl2F3N3
reactant | potassium cyanide | [C-]#N.[K+]
reactant | water | O | H2O
solvent | dimethyl sulphoxide | CS(=O)C | C2H6OS
product | 2-(2,6-dichloro-4-trifluoromethylphenyl)-2H-1,2,3-triazol-4-ylacetonitrile | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=N1)CC#N | C11H5Cl2F3N4
